US08802670B2
To a solution of 2-chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (450 mg) in DMF (6 mL) was added sodium thiomethoxide (183 mg) and the reaction heated at 100° C. for 16 h. After cooling to room temperature the reaction mixture was poured into ice water and the resulting precipitate filtered and air dried to give 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine as a white solid.

reactant | 2-chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 450 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | sodium thiomethoxide | 183 mg | C[S-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)SC | C17H25N5O3S3
